US07405210B2
5-Ethynyl-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-dimethylcarbamoyl-2-phenylethyl)amide
To a solution of 2-(S)-amino-N,N-dimethyl-3-phenylpropionamide hydrochloride (Preparation 8, 0.0135 g, 0.059 mmol) in DMF (anhydrous, 3 mL) was added DIPEA (0.031 mL, 0.177 mmol) then carboxylic acid (Preparation 60, 0.010 g, 0.054 mmol). To the stirred solution was added HOBt.H2O (0.008 g, 0.059 mmol) then, after 10 min, EDCI (0.012 g, 0.065 mmol). The reaction mixture was stirred for 18 h then all volatiles were removed in vacuo. The residue was partitioned between ethyl acetate (30 mL) and water (20 mL). The layers were separated and the aqueous layer extracted with ethyl acetate (3×20 mL). The combined organics were washed with brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in methanol then adsorbed onto silica gel. Purification via flash column chromatography (SiO2, CH2Cl2:MeOH, 19:1, v/v) gave the title compound as an off-white solid. δH (CD3OD): 2.88 (3H, s), 2.89 (3H, s), 3.00–3.23 (2H, m), 3.50 (1H, s), 5.27 (1H, t), 7.10–7.37 (6H, m), 7.86 (1H, s), 8.70 (1H, s). m/z (ES+)=361 [M+H]+; RT=2.65 min.

reactant | 2-(S)-amino-N,N-dimethyl-3-phenylpropionamide hydrochloride | 0.059 mmol, 0.0135 g | Cl.N[C@H](C(=O)N(C)C)CC1=CC=CC=C1
reactant | DIPEA | 0.177 mmol, 0.031 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.059 mmol, 0.008 g | O | H2O
reactant | EDCI | 0.065 mmol, 0.012 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Ethynyl-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-dimethylcarbamoyl-2-phenylethyl)amide | CN(C(=O)[C@H](CC1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)C#C)N1)C | C21H20N4O2
